US06525070B2
5-Methanesulfonyl-1H-indole-2-carboxylic acid
To a solution of the 5-methanesulfonyl-1H-indole-2-carboxylic acid methyl ester (0.49 g) in THF (12 mL) and water (4 ml) was added LiOH (0.098 g). The reaction mixture was left to stir for 2 hours. Acetic acid was added and the product extracted with dichloromethane. The organic extracts were combined, dried with magnesium sulfate, filtered and the filtrate evaporated to give the title compound as a solid (0.110 g).

reactant | 5-methanesulfonyl-1H-indole-2-carboxylic acid methyl ester | 0.49 g | COC(=O)C=1NC2=CC=C(C=C2C1)S(=O)(=O)C | C11H11NO4S
reactant | LiOH | 0.098 g | [Li+].[OH-]
reactant | Acetic acid | C(C)(=O)O | C2H4O2
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | water | 4 ml | O | H2O
product | 5-Methanesulfonyl-1H-indole-2-carboxylic acid | 0.110 g | CS(=O)(=O)C=1C=C2C=C(NC2=CC1)C(=O)O | C10H9NO4S
